US06252082B1
32.2. 3-Amino-6-methyl-2-oxo-4-(phenylsulphonyl)-1,2-dihydropyridine-1-acetic Acid
5.7 ml of a 1 N aqueous sodium hydroxide solution and 5.7 ml of ethanol are added to 1.6 g (4.76 mmol) of methyl 3-amino-6-methyl-2-oxo-4-(phenylsulphonyl)-1,2-dihydropyridine-1-acetate. 1.5 ml of dichloromethane are then introduced and the mixture is kept stirred for 2 hours at room temperature. The reaction medium is concentrated under vacuum and 8 ml of water and 5.8 ml of a 1 N aqueous hydrochloric acid solution are added. The precipitate is filtered, it is rinsed with water and it is dried under vacuum.

reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | ethanol | 5.7 ml | C(C)O | C2H6O
reactant | methyl 3-amino-6-methyl-2-oxo-4-(phenylsulphonyl)-1,2-dihydropyridine-1-acetate | 4.76 mmol, 1.6 g | NC=1C(N(C(=CC1S(=O)(=O)C1=CC=CC=C1)C)CC(=O)OC)=O | C15H16N2O5S
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
product | 3-Amino-6-methyl-2-oxo-4-(phenylsulphonyl)-1,2-dihydropyridine-1-acetic Acid | NC=1C(N(C(=CC1S(=O)(=O)C1=CC=CC=C1)C)CC(=O)O)=O | C14H14N2O5S
